Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
n/v
 
Major Surgical or Invasive Procedure:
EGD - ___
SBFT - ___

 
History of Present Illness:
Mr. ___ is a ___ without significant PMHx who presents 
with ongoing n/v (followed by Dr. ___ at ___.

He reports that over the past six months, he has developed 
intractable n/v associated with diffuse abdominal crampy pain, 
but worse at the epigastrium.  He reports that his abdominal 
symptoms seem worse in the morning.  He notes that drinking 
fluids can exacerbate his symptoms, but there is no obvious 
correlation with eating.  He has unfortunately lsot about 20 
pounds over the past 6 months due to his n/v.

He has had extensive GI work-up over the last year at ___ which 
included wnl esophageal manometry, an impedance pH study showing 
mild reflux.  He also had a barium study showing a small hiatal 
nernia.  A gastric emptying scan was also performed which was 
also wnl.  He underwent EGD in ___ which was also notable fo 
ra small hiatal hernia.  Biopsies were reportedly wnl.

He has since established care with Dr. ___.  He 
reported that his symptoms did seem to be worse with stress and 
his PCP placed him on klonopin and Lexapro (started in ___ 
with which he says he has not had significant improvement of his 
symptoms.  He was previously smoking a lot of marijuana; he said 
he stopped smoking marijuana 2 weeks ago to see if his symptoms 
would improve.  He states that the only consistent intervention 
which relieves his n/v is taking hot showers; he states taking 
as many as 5 hot showers daily.  Per Dr. ___ also 
underwent an MRA which was largely unremarkable.  He was placed 
on rifaximin and was also recommended enteric-coated peppermint 
oil as a natural antispasmodic; he did not appear to have any 
improvement following a 2 week course of rifaximin.

In the Ed, initial VS were 97.9, 66, 112/70, 16, 99% on RA.  
Labs showed wnl chemistries, wnl LFTs, and lipase 90.  CBC was 
wnl.  He was given 1L NS and Zofran/Ativan prior to transfer to 
the floor.

Upon arrival to the floor, the patient is seen at the bedside 
with both of his parents.  He states intermittent abdominal pain 
currently ___ in severity.  He continues to be nauseous and is 
intermittent vomiting clear secretions during our encounter.  He 
reports no changes with his BMs; normally has 3 loose BMs/week.  
No dysuria, no fever/chills/ns.  He has no other acute medical 
complaints. 
 
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, diarrhea, constipation, melena, dysuria, hematuria.  


 
Past Medical History:
n/v with unrevealing GI work-up
 
Social History:
___
Family History:
Both parents in good health.  Brother with celiac disease.
 
Physical Exam:
Admission Exam: 
Vitals-  98.4 116 / 74 59 16 97 RA 
GENERAL: thin, tired-appearing young male sitting up in bed with 
emesis basin, intermittently vomiting nonbilious emesis/clear 
secretions
HEENT: MMM, NCAT, EOMI, anicteric sclera
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: CTAB, unlabored respirations
ABDOMEN:  soft, nondistended, diffuse mild TTP worse at the 
epigastrium, + bowel sounds, no rebound or guarding
EXTREMITIES: wwp, no pitting edema of the BLE
SKIN: no rash or lesions.  
NEUROLOGIC: AOx3, following all commands, grossly nonfocal

Discharge Exam: 
VS: afebrile, SBPs 108-120, P 78, RR 18, 97% on RA
Gen: Lying in bed in no apparent distress
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, improved epigastric tenderness, 
non-distended, bowel sounds
present, no HSM
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect

 
Pertinent Results:
___ 02:50PM   GLUCOSE-85 UREA N-8 CREAT-0.9 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-20* ANION GAP-19
___ 02:50PM   ALT(SGPT)-12 AST(SGOT)-15 ALK PHOS-45 TOT 
BILI-0.6
___ 02:50PM   LIPASE-90*
___ 02:50PM   ALBUMIN-4.8 CALCIUM-9.4 PHOSPHATE-3.0 
MAGNESIUM-1.9
___ 02:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:50PM   WBC-7.3 RBC-5.01 HGB-14.5 HCT-42.7 MCV-85 
MCH-28.9 MCHC-34.0 RDW-13.5 RDWSD-42.4
___ 02:50PM   NEUTS-71.3* ___ MONOS-6.3 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-5.19 AbsLymp-1.51 AbsMono-0.46 
AbsEos-0.04 AbsBaso-0.02
___ 02:50PM   PLT COUNT-275

TSH 2.1
tTG, Vitamin D, Urine Porphobilinogen - pending

 
Brief Hospital Course:
Mr. ___ is a ___ without significant PMHx who was admitted 
to ___ with ongoing n/v (followed by Dr. ___ as an 
outpatient).

# Abdominal pain, n/v: highly suspect this is cannabis 
hyperemesis syndrome. He has had extensive work-up of his 
chronic n/v (mostly through ___ including esophageal manometry, 
impedance pH study, barium study, gastric emptying scan, and 
EGD, with a small hiatal hernia being the only significant 
finding. His subjective improvement with hot showers is very 
consistent with cannabis hyperemesis. In house, he had an EGD on 
___, notable for esophagitis, normal appearing stomach, 
erythema/granularity in the duodenum, otherwise normal EGD. 
Biopsies were taken of the esophagus, stomach and duodenum. UGI 
with Small bowel follow through showed a mild indentation at the 
mid third portion of the duodenum from the SMA, without 
obstruction or significant holdup. After he was counseled 
extensively on his likely diagnosis of cannabis hyperemesis, he 
experienced subjective improvement in his abdominal pain and 
nausea, and was able to tolerate diet advancement without any 
further episodes of vomiting. By ___ his PO intake had improved 
significantly and his electrolytes were normal, so he was 
cleared for discharge from the hospital. He will follow-up with 
his Gastroenterologist, Dr. ___. 

# Anxiety: his Olanzapine was discontinued per pt/family 
preference, especially given improvement in his GI symptoms. He 
was otherwise continued on his home regimen of Lexapro and 
Klonopin PRN without changes. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
2. Escitalopram Oxalate 5 mg PO DAILY 
3. Ondansetron 4 mg PO Q8H:PRN n/v 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. OLANZapine 5 mg PO QHS 

 
Discharge Medications:
1.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
2.  Escitalopram Oxalate 5 mg PO DAILY  
3.  NexIUM (esomeprazole magnesium) 40 mg oral DAILY  
4.  Ondansetron 4 mg PO Q8H:PRN n/v  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cannabis Hyperemesis Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

It was a pleasure caring for you. As you know, you were admitted 
for evaluation of nausea and vomiting. An EGD was performed, 
which showed inflammation in the bottom part of your esophagus, 
a condition known as esophagitis. A small bowel follow through 
study was performed, which was essentially normal. Several blood 
tests were performed, many of which are still pending at this 
time. 

As we discussed, your symptoms are most likely related to 
Cannabis Hyperemesis Syndrome. By staying off Marijuana and 
avoiding narcotic medications, we are confident that your 
condition will gradually continue to improve. 

Please make sure to call Dr. ___ office on ___ to 
arrange for a follow-up appointment sometime in the next few 
weeks. Try to keep a food journal, making a note of what foods 
are particularly bothersome. Please also check your weight 
periodically, so you can review this with Dr. ___. 

We wish you the best of luck. 
 
Followup Instructions:
___